US05250274
A sodium monochromate solution containing from 300 to 500 g/l Na2CO4 is obtained by leaching the furnace clinker leaving the roasting furnace with water or a chromate containing aqueous solution, adjusting the pH value of the mash from 7 to 9.5 and removing the insoluble constituents by filtration. The pH value is generally adjusted with sulfuric acid and/or with sodium dichromate solution. To produce sodium dichromate, the monochromate ions of the solution are converted into dichromate ions either by acidification with sulfuric acid, by acidification with carbon dioxide under pressure or by electrolytic acidification. Where sulfuric acid is used for acidification, sodium sulfate is formed and precipitates when the solution is concentrated to approximately 70% by weight Na2Cr2O7.2H2O. The chromate-containing sodium sulfate obtained has to be worked up.

reactant | sodium monochromate | [Cr](=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | chromate | [Cr](=O)(=O)([O-])[O-]
solvent | water | O | H2O
product | sodium dichromate | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+] | InChI=1S/2Cr.2Na.7O/q;;2*+1;;;;;;2*-1
